US06407096B1
5-(t-butyldimethylsiloxy)quinoline
5-hydroxyquinoline (101 mg) was dissolved in DMF (5 ml) under an argon atmosphere, and the resultant solution was stirred at room temperature. Imidazole (113 mg) and t-butyldimethylsilyl chloride (162 mg) were added to the solution, and the mixture was stirred at room temperature. After disappearance of the raw materials was confirmed, water (5 ml) was added to the reaction solution, and the mixture was then extracted with ethyl acetate. The resultant organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and then concentrated. The resultant residue was purified by column chromatography (silica gel:hexane/ethyl acetate=9/1) to obtain the object compound (197 mg, yield 100%).

reactant | 5-hydroxyquinoline | 101 mg | OC1=C2C=CC=NC2=CC=C1 | C9H7NO
reactant | Imidazole | 113 mg | N1C=NC=C1 | C3H4N2
reactant | t-butyldimethylsilyl chloride | 162 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | water | 5 ml | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 5-(t-butyldimethylsiloxy)quinoline | 197 mg, yield 100% | O([Si](C)(C)C(C)(C)C)C1=C2C=CC=NC2=CC=C1 | C15H21NOSi
